US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (5.02 g, 13.4 mmol) was reacted with NBS (2.87 g, 16.1 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (3.95 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 13.4 mmol, 5.02 g | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NC=CN=C1 | C18H16ClFN4O2
reactant | NBS | 16.1 mmol, 2.87 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 3.95 g, 65% | BrCC1=C(C(N=C(N1)C1=NC=CN=C1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C18H15BrClFN4O2
